US07544697B2
A solution of 1-(2-methylpropyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine (0.8 g, 3 mmol), prepared as described in Example 1, in trifluoroacetic acid (10 mL) was treated with platinum (IV) oxide (0.5 g) and shaken under hydrogen pressure (50 psi, 3.4×105 Pa) for 24 hours on a Parr apparatus. The reaction mixture was diluted with chloroform (20 mL) and methanol (10 mL) and filtered through a layer of CELITE filter agent. The filtrate was concentrated under reduced pressure. The residue was suspended in 6 M aqueous hydrochloric acid (5 mL), stirred for 30 minutes, and treated with 50% aqueous sodium hydroxide to adjust the mixture to pH 13. A precipitate formed and was isolated by filtration, washed with water, and dried. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 0-35% CMA in chloroform) to yield 0.55 g of 1-(2-methylpropyl)-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine as an off-white powder, mp 167-168° C.

reactant | 1-(2-methylpropyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 3 mmol, 0.8 g | CC(CC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC)C | C17H22N4
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 mL | CO | CH4O
catalyst | platinum (IV) oxide | 0.5 g | [Pt](=O)=O
product | 1-(2-methylpropyl)-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine | 0.55 g | CC(CC=1N(N=C2C(=NC=3CCCCC3C21)N)CCC)C | C17H26N4
